US07569571B2
Preparation of N-Cyclopropyl-4-methyl-3-(6-pyridin-2-yl-purin-9-yl)-benzamide
A mixture of 3-(6-chloro-purin-9-yl)-N-cyclopropyl-4-methyl-benzamide (16 mg, 0.049 mmol), Pd(PPh3)4 (5.7 mg, 0.0049 mmol) and the 2-tributylstannanyl-pyridine (36 mg, 0.098 mmol) was suspended in DMF (0.25 ml). The mixture was heated with microwave at 160° C. for 10 minutes. The mixture was purified by HPLC to give the desired product as a white solid (16 mg, 0.043 mmol, 88%). HPLC tR=1.59 min; MS m/z 371 [M+H]+.

reactant | 3-(6-chloro-purin-9-yl)-N-cyclopropyl-4-methyl-benzamide | 0.049 mmol, 16 mg | ClC1=C2N=CN(C2=NC=N1)C=1C=C(C(=O)NC2CC2)C=CC1C | C16H14ClN5O
reactant | 2-tributylstannanyl-pyridine | 0.098 mmol, 36 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | DMF | 0.25 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.0049 mmol, 5.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-Cyclopropyl-4-methyl-3-(6-pyridin-2-yl-purin-9-yl)-benzamide | 0.043 mmol, 16 mg, 88% | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C2=NC=NC(=C2N=C1)C1=NC=CC=C1)=O | C21H18N6O
